US06008230
To a mixture of 3-carboxy-8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)quinoline (147.6 mg) and triethylamine (12.2 mg) in dioxane was added diphenylphosphoryl azide (99.8 mg) at 90° C., and the mixture was stirred for 2 hours at the same temperature. After cooling to 70° C., methanol (12.2 mg) was added thereto and the mixture was stirred for 1 hour at 85° C. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (methanoldichloromethane) and crystallized from isopropyl alcohol to give 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(methoxycarbonylamino)quinoline (21.3 mg).

reactant | 3-carboxy-8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)quinoline | 147.6 mg | C(=O)(O)C=1C=NC2=C(C=CC=C2C1N1C=NC=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C20H12Cl2N4O3
reactant | triethylamine | 12.2 mg | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 99.8 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methanol | 12.2 mg | CO | CH4O
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 8-(2,6-dichlorobenzoylamino)-4-(imidazol-1-yl)-3-(methoxycarbonylamino)quinoline | 21.3 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)NC(=O)OC)N2C=NC=C2)C(=CC=C1)Cl | C21H15Cl2N5O3
